US07511066B2
G. 2-[4-tert-Butyl-2-(1-Boc-piperidin-4-yloxy)phenyl]-4H-pyrido[4,3-d][1,3]oxazin-4-one
To a stirring solution of 4-[4-tert-butyl-2-(1-Boc-piperidin-4-yloxy)benzoylamino]pyridine-3-carboxylic acid (0.15 g, 0.30 mmol) in DMF (5 mL) was added 1-[3-(dimethyl-amino)propyl]-3-ethylcarbodiimide hydrochloride (0.077 g, 0.39 mmol). After stirring overnight, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate and washed twice with ice water/brine. The combined aq phase was back extracted with ethyl acetate and the combined organic phase was dried with MgSO4, filtered and concentrated in vacuo to give the title compound (0.121 g, 84%) as a light yellow foam.

reactant | 4-[4-tert-butyl-2-(1-Boc-piperidin-4-yloxy)benzoylamino]pyridine-3-carboxylic acid | 0.30 mmol, 0.15 g | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C=NC=C2)C(=O)O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C27H35N3O6
reactant | 1-[3-(dimethyl-amino)propyl]-3-ethylcarbodiimide hydrochloride | 0.39 mmol, 0.077 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[4-tert-Butyl-2-(1-Boc-piperidin-4-yloxy)phenyl]-4H-pyrido[4,3-d][1,3]oxazin-4-one | 0.121 g, 84% | C(C)(C)(C)C1=CC(=C(C=C1)C=1OC(C2=C(N1)C=CN=C2)=O)OC2CCN(CC2)C(=O)OC(C)(C)C | C27H33N3O5
